US07511038B2
N-Methoxy-5,N-dimethyl-nicotinamide
A mixture of 5-methyl-nicotinic acid (1.8 g, 13.1 mmole) and SOCl2 (10 mL) was heated to 75° C. for three hours. The remaining SOCl2 was removed by vacuum distillation and the oily residue carefully redissolved in dichloromethane (16 mL). Then N,O-dimethylhydroxyl amine hydrochloride (1.4 g, 14.4 mmol) was added. The reaction mixture was purged with argon and triethylamine (5.11 mL, 36.7 mmol) was dropwise added at 0° C. It was stirred for 24 hours at room temperature. The mixture was diluted with dichloromethane, washed with NaOH 2N, brine, dried and concentrated to yield a brown oil which was purified by column chromatography (SiO2, n-Hex/EtOAc 1:1 to EtOAc) to afford the title compound (1.7 g, 71% yield) as a brownish oil.

reactant | 5-methyl-nicotinic acid | 13.1 mmole, 1.8 g | CC=1C=NC=C(C(=O)O)C1 | C7H7NO2
reactant | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
reactant | N,O-dimethylhydroxyl amine hydrochloride | 14.4 mmol, 1.4 g | Cl.CNOC
reactant | triethylamine | 36.7 mmol, 5.11 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Methoxy-5,N-dimethyl-nicotinamide | 1.7 g, 71% yield | CON(C(C1=CN=CC(=C1)C)=O)C | C9H12N2O2
